US05935972
5-Amino-7-methyl-benzofuran
A mixture of 2,2,2trifluoro-N-(7-methyl-benzofuran-5-yl)-acetamide (580 mg) and potassium carbonate (1.64 g) in methanol (25 ml) and water (2.5 ml) was heated at reflux for 2.5 hours. The residue was extracted with dichloromethane (3×25 ml) and the combined, dried (MgSO4) organic phase was evaporated in vacuo to give the title compound as a colourless oil (350 mg).

reactant | 2,2,2trifluoro-N-(7-methyl-benzofuran-5-yl)-acetamide | 580 mg | FC(C(=O)NC=1C=C(C2=C(C=CO2)C1)C)(F)F | C11H8F3NO2
reactant | potassium carbonate | 1.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | 5-Amino-7-methyl-benzofuran | 350 mg | NC=1C=C(C2=C(C=CO2)C1)C | C9H9NO
